US06008230
To a solution of 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline (405 mg) in dimethylformamide were added potassium carbonate (305 mg) and methyl iodide (314 mg) and the mixture was stirred for 2 hours at ambient temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate: n-hexane, 1:3, v/v) and crystallized from ethanol-water to give 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(methoxycarbonylmethyl)quinoline (282 mg).

reactant | 4-carboxymethyl-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline | 405 mg | C(=O)(O)CC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)CC | C20H16Cl2N2O3
reactant | potassium carbonate | 305 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 314 mg | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(methoxycarbonylmethyl)quinoline | 282 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CC)CC(=O)OC)C(=CC=C1)Cl | C21H18Cl2N2O3
